US07977477B2
A mixture of N-[1-(4-methoxy-benzyl)-3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2-trifluoromethoxy-benzamide (50 mg) and anisole (25 μl) in trifluoroacetic acid (1 ml) was heated at 140° C. (100 W) for 20 min in a CEM Discover™ microwave synthesiser. The reaction mixture was evaporated and then azeotroped with toluene (2×10 ml). To the crude material was added EtOAc (5 ml) and the mixture neutralised with saturated aqueous sodium hydrogen carbonate. The organic portion was washed with water, dried (MgSO4) and reduced in vacuo. The residue was purified by flash column chromatography [SiO2, CH2Cl2-MeOH (100:0-95:5)] to give N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2-trifluoromethoxy-benzamide (12 mg) as a white solid. (LC/MS: Rt 2.06, [M+H]+ 487).

reactant | N-[1-(4-methoxy-benzyl)-3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2-trifluoromethoxy-benzamide | 50 mg | COC1=CC=C(CN2N=C(C(=C2)NC(C2=C(C=CC=C2)OC(F)(F)F)=O)C2=NC3=C(N2)C=CC(=C3)CN3CCOCC3)C=C1 | C31H29F3N6O4
reactant | anisole | 25 μl | C1(=CC=CC=C1)OC | C7H8O
solvent | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-[3-(5-morpholin-4-ylmethyl-1H-benzimidazol-2-yl)-1H-pyrazol-4-yl]-2-trifluoromethoxy-benzamide | 12 mg | N1(CCOCC1)CC1=CC2=C(NC(=N2)C2=NNC=C2NC(C2=C(C=CC=C2)OC(F)(F)F)=O)C=C1 | C23H21F3N6O3
